US07323496B2
Synthesis of N-{4-[2-(3,5-dimethoxyphenyl)-1-dimethylcarbamoylvinyl]-phenyl}-3-hydroxybenzamide (44)
A mixture of 2-(4-aminophenyl)-3-(3,5-dimethoxyphenyl)-N,N-dimethylacrylamide, 43, (0.59 g, 1.5 mmol), benzotriazol-1-yloxytris-(dimethylamino)-phosphonium hexafluorophosphate (BOP,0.88 g, 2.0 mmol), 3-hydroxybenzoic acid (0.28 g, 2.0 mmol), triethylamine (0.2 g, 2.0 mmol) in DMF (8.0 mL) was stirred for 3 h at room temperature. The reaction mixture was poured in water (50 mL) and solid separated was filtered, dried and purity was checked by HPLC (97.6%).

reactant | 2-(4-aminophenyl)-3-(3,5-dimethoxyphenyl)-N,N-dimethylacrylamide | NC1=CC=C(C=C1)C(C(=O)N(C)C)=CC1=CC(=CC(=C1)OC)OC | C19H22N2O3
reactant | benzotriazol-1-yloxytris-(dimethylamino)-phosphonium hexafluorophosphate | 1.5 mmol, 0.59 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 3-hydroxybenzoic acid | 2.0 mmol, 0.28 g | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | triethylamine | 2.0 mmol, 0.2 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 8.0 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | N-{4-[2-(3,5-dimethoxyphenyl)-1-dimethylcarbamoylvinyl]-phenyl}-3-hydroxybenzamide | COC=1C=C(C=C(C1)OC)C=C(C(N(C)C)=O)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)O)=O | C26H26N2O5
